US07250410B2
1-(2-benzo[b]thienyl)-7,8-diethoxy-3-ethyl-3,5-dihydro-4H-2,3-benzodiazepin-4-one, IIIaz.
By replacing 7,8-dimethoxy-1-phenyl-3,5-dihydro-4H-2,3-benzodiazepin-4-one VIaa in example IIIag by 1-(2-benzo[b]thienyl)-7,8-diethoxy-3,5-dihydro-4H-2,3-benzodiazepin-4-one VIab and proceeding in the same manner, the abovenamed product is obtained. Yield: 72%. M: 100–103° C. 1H-NMR (200 MHz, CDCl3): d 1.26 (t, J=7.1, 3H, CH3), 1.44 (t, J=7.0, 3H, CH3), 1.52 (t, J=7.1, 3H, CH3), 3.29–3.56 (m, 2H, 5-CH2), 3.85–4.25 (m, 6H, 3×CH2CH3), 6.87 (s, 1H Ar), 7.15 (s, 1H Ar), 7.32–7.44 (m, 3H Ar), 7.71–7.89 (m, 2H Ar).

reactant | 7,8-dimethoxy-1-phenyl-3,5-dihydro-4H-2,3-benzodiazepin-4-one | COC=1C(=CC2=C(CC(NN=C2C2=CC=CC=C2)=O)C1)OC | C17H16N2O3
reactant | 1-(2-benzo[b]thienyl)-7,8-diethoxy-3,5-dihydro-4H-2,3-benzodiazepin-4-one | S1C2=C(C=C1C1=NNC(CC3=C1C=C(C(=C3)OCC)OCC)=O)C=CC=C2 | C21H20N2O3S
product | 1-(2-benzo[b]thienyl)-7,8-diethoxy-3-ethyl-3,5-dihydro-4H-2,3-benzodiazepin-4-one | Yield: 72% | S1C2=C(C=C1C1=NN(C(CC3=C1C=C(C(=C3)OCC)OCC)=O)CC)C=CC=C2 | C23H24N2O3S
